US09169261B2
Synthesis of (S)-5-(prop-1-en-2-yl)-N-(1-(pyrrolo[1,2-a]pyrazin-1-yl)pyrrolidin-3-yl)pyrimidine-2-carboxamide
To a solution of (S)-5-bromo-N-(1-(pyrrolo[1,2-a]pyrazin-1-yl)pyrrolidin-3-yl)pyrimidine-2-carboxamide (0.075 g, 0.19 mmol, 1 eq) in 1.8 mL of DMF was added 4,4,5,5-tetramethyl-2-(prop-1-en-2-yl)-1,3,2-dioxaborolane (0.10 g, 0.6 mmol, 3 eq), followed by K2CO3 (0.14 g, 0.99 mmol, 5 eq) in 0.2 mL of H2O and Pd(dppf)Cl2 (0.02 g, 0.02 mmol, 0.1 eq). After heating for 2 h at 120° C. the mixture was filtered, concentrated and carried forward to the next step.

reactant | (S)-5-bromo-N-(1-(pyrrolo[1,2-a]pyrazin-1-yl)pyrrolidin-3-yl)pyrimidine-2-carboxamide | 0.19 mmol, 0.075 g, 1 eq | BrC=1C=NC(=NC1)C(=O)N[C@@H]1CN(CC1)C=1C=2N(C=CN1)C=CC2 | C16H15BrN6O
reactant | 4,4,5,5-tetramethyl-2-(prop-1-en-2-yl)-1,3,2-dioxaborolane | 0.6 mmol, 0.10 g, 3 eq | CC1(OB(OC1(C)C)C(=C)C)C | C9H17BO2
reactant | K2CO3 | 0.99 mmol, 0.14 g, 5 eq | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 1.8 mL | CN(C)C=O | C3H7NO
solvent | H2O | 0.2 mL | O | H2O
catalyst | Pd(dppf)Cl2 | 0.02 mmol, 0.02 g, 0.1 eq | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (S)-5-(prop-1-en-2-yl)-N-(1-(pyrrolo[1,2-a]pyrazin-1-yl)pyrrolidin-3-yl)pyrimidine-2-carboxamide | C=C(C)C=1C=NC(=NC1)C(=O)N[C@@H]1CN(CC1)C=1C=2N(C=CN1)C=CC2 | C19H20N6O
